US07812045B2
(E)-3-(4-Bromophenyl)-N-(1-(2-(2,4-difluorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)propyl)-1H-indazol-5-yl)acrylamide
To a solution, of (E)-3-(4-bromophenyl)acrylic acid (0.034 g, 0.15 mmol) in tetrahydrofuran (1 ml) were added 1-hydroxybenzotriazole (0.023 g, 0.17 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.032 g, 0.17 mmol). Then triethylamine (0.045 ml, 0.32 mmol) was slowly added at 0° C., followed by stirring the reaction mixture for 30 min. After the addition of (5-Amino-1H-indazol-1-yl)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (0.057 g, 0.15 mmol) and 4-N,N-dimethylaminopyridine (0.004 g, 0.03 mmol), stirring at room temperature for 2 hours and concentrated by evaporation in a vacuum condition. The crude product was purified by chromatography on silica gel to give the title compound.

reactant | (E)-3-(4-bromophenyl)acrylic acid | 0.15 mmol, 0.034 g | BrC1=CC=C(C=C1)/C=C/C(=O)O | C9H7BrO2
reactant | 1-hydroxybenzotriazole | 0.17 mmol, 0.023 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.17 mmol, 0.032 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.32 mmol, 0.045 ml | C(C)N(CC)CC | C6H15N
reactant | (5-Amino-1H-indazol-1-yl)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.15 mmol, 0.057 g | NC=1C=C2C=NN(C2=CC1)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F | C18H16F2N6O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (E)-3-(4-Bromophenyl)-N-(1-(2-(2,4-difluorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)propyl)-1H-indazol-5-yl)acrylamide | BrC1=CC=C(C=C1)/C=C/C(=O)NC=1C=C2C=NN(C2=CC1)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F | C27H21BrF2N6O2
